US04923885
4-(1-Naphthoyl)-3,5-dichlorotoluene
To a stirred, cold (-60° C.) solution of 3,5-dichlorotoluene (3.5 g, 21.7 mmol) in dry tetrahydrofuran (30 ml), 2.6 M n-butyllithium in hexane (8.78 ml, 22.8 mmol) was added dropwise over 15 minutes. The reaction mixture was stirred for one hour at -60° C. and then treated with a solution of 1-naphthoyl chloride (4.14 g, 21.7 mmol) in 15 ml of dry tetrahydrofuran over a period of 15 minutes. The mixture was stirred for 3.5 hours at -60° C. and then quenched with 4.8 ml of saturated NH4Cl solution. The mixture was permitted to warm to room temperature and then diluted with 30 ml of water and 30 ml of ether. The layers were thoroughly mixed and then separated. The etheral layer was backed-washed with brine and dried with anhydrous magnesium sulfate. Concentration afforded 7.12 g of crude product which was chromatographed on silica gel (20:1 hexane:ethyl acetate) to give 1.59 g (23 %).

reactant | 3,5-dichlorotoluene | 21.7 mmol, 3.5 g | ClC=1C=C(C=C(C1)Cl)C | C7H6Cl2
reactant | hexane | 22.8 mmol, 8.78 ml | CCCCCC | C6H14
reactant | 1-naphthoyl chloride | 21.7 mmol, 4.14 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | n-butyllithium | 2.6 M | C(CCC)[Li]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(1-Naphthoyl)-3,5-dichlorotoluene | 7.12 g | C1(=CC=CC2=CC=CC=C12)C(=O)C1=C(C=C(C=C1Cl)C)Cl | C18H12Cl2O
